US09233946B2
3-{[(3-Methyl-5-pyrrolidin-1-yl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid
The ethyl 3-{[(3-methyl-5-pyrrolidin-1-yl-1-benzothiophen-2-yl)sulfonyl]amino}benzoate (4.7 mg, 0.01 mmol) was hydrolyzed with LiOH (2.6 mg, 0.06 mmol) in THF/water (1:1, 2 mL) at 55° C. over night. The reaction mixture was neutralized with acetic acid (3.6 μL) and the mixture was concentrated. The crude product was purified by preparative HPLC (ACE C8, 5 μm 21×50 mm, flow 25 ml/min, 50 mM NH4OAc in water/CH3CN) to give 2.7 mg (6% over two steps) of the title compound. MS (ESI+) calcd for C20H20N2O4S2 416.086449, found 416.086649.

reactant | ethyl 3-{[(3-methyl-5-pyrrolidin-1-yl-1-benzothiophen-2-yl)sulfonyl]amino}benzoate | 0.01 mmol, 4.7 mg | CC1=C(SC2=C1C=C(C=C2)N2CCCC2)S(=O)(=O)NC=2C=C(C(=O)OCC)C=CC2 | C22H24N2O4S2
reactant | LiOH | 0.06 mmol, 2.6 mg | [Li+].[OH-]
reactant | acetic acid | 3.6 μL | C(C)(=O)O | C2H4O2
solvent | THF water | 2 mL | C1CCOC1.O
product | 3-{[(3-Methyl-5-pyrrolidin-1-yl-1-benzothien-2-yl)sulfonyl]amino}benzoic acid | CC1=C(SC2=C1C=C(C=C2)N2CCCC2)S(=O)(=O)NC=2C=C(C(=O)O)C=CC2 | C20H20N2O4S2
